### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/RootSystem): Weyl group

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR redefines the Weyl group of a root pairing as the subgroup of automorphisms generated by reflection morphisms. The new definition is isomorphic to the old one, by faithfulness of the weight space representation, but we also get a natural coweight space representation and permutation representation on roots.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Hom.lean [hunk 1]
```diff
@@ -601,7 +633,31 @@ lemma reflection_coweightEquiv (P : RootPairing ι R M N) (i : ι) :
...
+  (reflection P i).indexEquiv = P.reflection_perm i :=
+  rfl
+
+@[simp]
+lemma reflection_inv (P : RootPairing ι R M N) (i : ι) :
+    (reflection P i)⁻¹ = (reflection P i) := by
+  refine Equiv.ext ?_ ?_ ?_
+  · exact LinearMap.ext_iff.mpr (fun x => by simp [← weightEquiv_apply])
+  · exact LinearMap.ext_iff.mpr (fun x => by simp [← coweightEquiv_apply])
+  · exact _root_.Equiv.ext (fun j => by simp only [← indexHom_apply, map_inv]; simp)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/Hom.lean:645]: It occurs to me seeing this that we could make life easier here (and throughout this file) by proving stronger extensionality lemmas for `RootPairing.Hom` and `RootPairing.Equiv` (and dropping the `@[ext]` decorator from the `structure` declarations to free up the name).

I guess these extensionality lemmas would be heterogeneous versions of `RootPairing.weightHom_injective` and `RootPairing.coweightHom_injective` (which we would keep but with one-line proofs). IIUC these would read:
```lean
@[ext] protected lemma Hom.ext {x y : RootPairing.Hom P Q} (h : x.weightMap = y.weightMap) :
    x = y := by
  sorry

-- Cannot carry `ext` attribute but I guess worth having for symmetry.
protected lemma Hom.ext' {x y : RootPairing.Hom P Q} (h : x.coweightMap = y.coweightMap) :
    x = y := by
  sorry
```
Anyway, this is all a bit of a detour and need not be done now, I just thought I'd mention it.

File: Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean [hunk 2]
```diff
@@ -0,0 +1,141 @@
...
+    | inv_mem w' hw' =>
+      obtain ⟨i, rfl⟩ := hw'
+      simp only [Equiv.reflection_inv, MonoidHom.restrict_apply, Equiv.coweightHom_apply,
+        Equiv.reflection_coweightEquiv]
+      simpa only [reflection_mem_weylGroup] using Subgroup.subset_closure (mem_range_self i)
+    | mul w₁ w₂ hw₁ hw₂ h₁ h₂ =>
+      simpa only [← Submonoid.mk_mul_mk _ w₁ w₂ hw₁ hw₂, map_mul] using Subgroup.mul_mem _ h₁ h₂
+
+/-- The permutation representation of the Weyl group induced by `reflection_perm`. -/
+abbrev weylGroupToPerm := ((Equiv.indexHom P).restrict P.weylGroup)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean:104]:
```suggestion
abbrev weylGroupToPerm := (Equiv.indexHom P).restrict P.weylGroup
```

File: Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean [hunk 3]
```diff
@@ -0,0 +1,141 @@
...
+
+@[simp]
+lemma weylGroupToPerm_apply_reflection : --deprecate?
+    P.weylGroupToPerm ⟨Equiv.reflection P i, reflection_mem_weylGroup P i⟩ =
+      P.reflection_perm i :=
+  rfl
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean:111]: I think we're safe just to drop this: I think it's still too soon for there to be dependencies on this material.
```suggestion
```

File: Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+      simp only [Equiv.reflection_inv, MonoidHom.restrict_apply, Equiv.indexHom_apply,
+        Equiv.reflection_indexEquiv]
+      simpa only [reflection_mem_weylGroup] using Subgroup.subset_closure (mem_range_self i)
+    | mul w₁ w₂ hw₁ hw₂ h₁ h₂ =>
+      simpa only [← Submonoid.mk_mul_mk _ w₁ w₂ hw₁ hw₂, map_mul] using Subgroup.mul_mem _ h₁ h₂
+
+lemma exists_root_eq_smul_of_mem_weylGroup {w : Aut P} (i : ι) : -- deprecate?
+    ∃ j, P.root j = w • (P.root i) :=
+  Exists.intro (w • i) (Hom.root_weightMap_apply P P i w.toHom).symm
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean:140]: As above, I think safe to drop
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks; very nice indeed!

Just a bunch of nitpicks and one random thought about extensionality lemmas which should probably be done separately at some point.

bors d+
